US07645778B2
A solution of 4-(2-methoxyphenyl)piperidine (Fluka, 5 g, 26.1 mmol) in 48% hydrobromic acid (45 mL) was heated to 100° C. for 3 days. The mixture was then allowed to cool down to rt and it was concentrated under reduced pressure to give 2-(piperidin-4-yl)phenol as a light pink solid which was used directly in the next step. M+H=178.1.

reactant | 4-(2-methoxyphenyl)piperidine | 26.1 mmol, 5 g | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
solvent | hydrobromic acid | 45 mL | Br | BrH
product | 2-(piperidin-4-yl)phenol | N1CCC(CC1)C1=C(C=CC=C1)O | C11H15NO
